US04728645
6,95 g of N-tert-butyl-p-bromobenzamide is dissolved in 175 ml of tetrahydrofuran at -70° under nitrogen and 20.1 ml of n-butyllithium (2.7M) is added dropwise. After 30 min, a solution of 5.35 g of 4-(1-trityl-4-imidazolyl)-butanoic acid in 10 ml of tetrahydrofuran is added slowly. The reaction mixture is allowed to warm slowly to room temperature and 20 ml of an aqueous ammonium chloride solution is added. The organic layer is separated, dried over sodium sulfate and evaporated to yield 1-(p-N-tert-butylaminocarbonylphenyl)-4-(1-trityl-4-imidazolyl)-1-butanone

reactant | N-tert-butyl-p-bromobenzamide | 6,95 g | C(C)(C)(C)NC(C1=CC=C(C=C1)Br)=O | C11H14BrNO
reactant | n-butyllithium | 2.7M, 20.1 ml | C(CCC)[Li]
reactant | 4-(1-trityl-4-imidazolyl)-butanoic acid | 5.35 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCCC(=O)O | C26H24N2O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(p-N-tert-butylaminocarbonylphenyl)-4-(1-trityl-4-imidazolyl)-1-butanone | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H37N3O2
